US05495026
[Synthesis of 2,5,7,8-tetramethyl-6-acetoxy-2-ethoxycarbonylchroman]
There were mixed 1.9 g (0.01 mole) of 4-acetoxy-2,3,5-trimethylphenol, 9.2 g (0.08 mole) of ethyl methacrylate, 0.3 g (0.011 mole) of paraformaldehyde, 0.13 g (0.001 mole) of dibutylamine and 0.3 g (0.005 mole) of acetic acid, and the mixture was heated under reflux for 15 hours.

reactant | 4-acetoxy-2,3,5-trimethylphenol | 0.01 mole, 1.9 g | C(C)(=O)OC1=C(C(=C(C=C1C)O)C)C | C11H14O3
reactant | ethyl methacrylate | 0.08 mole, 9.2 g | C(C(=C)C)(=O)OCC | C6H10O2
reactant | paraformaldehyde | 0.011 mole, 0.3 g | C=O | CH2O
reactant | dibutylamine | 0.001 mole, 0.13 g | C(CCC)NCCCC | C8H19N
reactant | acetic acid | 0.005 mole, 0.3 g | C(C)(=O)O | C2H4O2
product | 2,5,7,8-tetramethyl-6-acetoxy-2-ethoxycarbonylchroman | CC1(OC2=C(C(=C(C(=C2CC1)C)OC(C)=O)C)C)C(=O)OCC | C18H24O5
